US05965553
α-(1-Naphthyl)-2-(3-tert-butyldiphenylsilyloxy-2,2-dimethylpropyl)amino-5-chlorobenzyl alcohol
Sodium borohydride (1.73 g, 45.8 mmol) was added portionwise to a solution of α-(1-naphthyl)-2-amino-5-chlorobenzyl alcohol (9.76 g, 34.4 mmol) and 3-tert-butyldiphenylsilyloxy-2,2-dimethylpropanal (12.89 g, 37.9 mmol) in acetic acid (105 ml) at 0° C. The reaction mixture was allowed to warm to room temperature, and stirring was continued for 45 min. Hydrolysis with water was followed by repeated extraction of the mixture with ethyl acetate. The combined organic layers were washed with 1 N sodium hydroxide and dried with MgSO4. The filtrate was concentrated under reduced pressure, and the residue was purified by flash chromatography (hexane/ethyl acetate 9:1) to give the title compound (12.01 g, 57%) as a colorless oil.

reactant | Sodium borohydride | 45.8 mmol, 1.73 g | [BH4-].[Na+]
reactant | α-(1-naphthyl)-2-amino-5-chlorobenzyl alcohol | 34.4 mmol, 9.76 g | C1(=CC=CC2=CC=CC=C12)C(C1=C(C=CC(=C1)Cl)N)O | C17H14ClNO
reactant | 3-tert-butyldiphenylsilyloxy-2,2-dimethylpropanal | 37.9 mmol, 12.89 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC(C=O)(C)C | C21H28O2Si
reactant | water | O | H2O
solvent | acetic acid | 105 ml | C(C)(=O)O | C2H4O2
product | α-(1-Naphthyl)-2-(3-tert-butyldiphenylsilyloxy-2,2-dimethylpropyl)amino-5-chlorobenzyl alcohol | 12.01 g, 57% | C1(=CC=CC2=CC=CC=C12)C(C1=C(C=CC(=C1)Cl)NCC(CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)(C)C)O | C38H42ClNO2Si
